US04308378
Step A. Preparation of 2,4-Dichloro-6-phenylmethoxybenzaldehyde
Potassium carbonate (9.4 g, 67.8 mmole) was added to a stirred solution of 4,6-dichlorosalicylaldehyde (10.8 g, 56.5 mmole) in dimethylformamide (80 ml). The resulting mixture was stirred at 60° for 30 minutes and treated with benzyl bromide (10.6 g, 62.1 mmole). This mixture was stirred one hour at 60° C. and then poured into ice water (1000 ml) to give the title compound (15.9 g, 100%) which melted at 98°-100° C. after recrystallization from hexane. pmr (CDCl3) δ5.10 (2H, s), 7.33 (5H, s), 10.40 (H, s).

reactant | Potassium carbonate | 67.8 mmole, 9.4 g | C([O-])([O-])=O.[K+].[K+]
reactant | 4,6-dichlorosalicylaldehyde | 56.5 mmole, 10.8 g | ClC=1C=C(C(C=O)=C(C1)Cl)O | C7H4Cl2O2
reactant | benzyl bromide | 62.1 mmole, 10.6 g | C(C1=CC=CC=C1)Br | C7H7Br
solvent | dimethylformamide | 80 ml | CN(C=O)C | C3H7NO
product | 2,4-Dichloro-6-phenylmethoxybenzaldehyde | 15.9 g, 100% | ClC1=C(C=O)C(=CC(=C1)Cl)OCC1=CC=CC=C1 | C14H10Cl2O2
